US08349849B2
To a solution of oxalyl chloride (987 mg, 7.8 mmol, 1.5 eq.) in dry CH2Cl2 (40 mL) was added slowly DMSO (1.6 g, 20.8 mmol, 4 eq.) at −78° C. under N2 After 30 min, 1-(7-(heptyloxy)quinolin-3-yl)ethanol (1.5 g, 5.2 mmol) was added dropwise at −78° C. The mixture was stirred for 2 h at −78° C., and then Et3N (3.2 g, 31 mmol, 6 eq.) was added at −78° C. After 20 min, the mixture was warmed to room temperature. Then the reaction mixture was added water (30 mL), extracted (DCM), washed (brine), dried (Na2SO4), filtered and evaporated to dryness to give the crude product, which was purified by silica gel column chromatography (PE-EA, 10:1) to give 1-(7-(heptyloxy)quinolin-3-yl)ethanone as yellow solid (1.08 g, yield 73%). ESI-MS: 286 (M+H)+.

reactant | oxalyl chloride | 7.8 mmol, 987 mg, 1.5 eq. | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 20.8 mmol, 1.6 g, 4 eq. | CS(=O)C | C2H6OS
reactant | 1-(7-(heptyloxy)quinolin-3-yl)ethanol | 5.2 mmol, 1.5 g | C(CCCCCC)OC1=CC=C2C=C(C=NC2=C1)C(C)O | C18H25NO2
reactant | Et3N | 31 mmol, 3.2 g, 6 eq. | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
solvent | water | 30 mL | O | H2O
product | 1-(7-(heptyloxy)quinolin-3-yl)ethanone | 1.08 g, yield 73% | C(CCCCCC)OC1=CC=C2C=C(C=NC2=C1)C(C)=O | C18H23NO2
